US08486967B2
b) 8-(3,4-Difluoro-phenyl)-6-trifluoromethyl-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine
To a solution of 8-(3,4-difluorophenyl)-6-(trifluoromethyl)-[1,2,4]triazolo[1,5-a]pyridin-2-amine (500 mg, 1.59 mmol) and magnesium (309 mg, 12.7 mmol) in methanol (80 mL) and THF (40 mL) was added iodine (2 mg, 7.88 μmol), stirred for 10 minutes at room temperature, then sonicated for 30 minutes. The reaction mixture was concentrated in vacuo. The residue was dissolved in THF and dried over Na2SO4, then filtered off, washed thoroughly with THF and the solvents were evaporated. The crude material was purified by flash chromatography (silica gel, 70 g, 0% to 15% MeOH/NH4OH (9:1) in dichloromethane). The title compound was obtained as mixture of racemic diastereomers as white solid (324 mg, 64%).

reactant | 8-(3,4-difluorophenyl)-6-(trifluoromethyl)-[1,2,4]triazolo[1,5-a]pyridin-2-amine | 1.59 mmol, 500 mg | FC=1C=C(C=CC1F)C=1C=2N(C=C(C1)C(F)(F)F)N=C(N2)N | C13H7F5N4
reactant | magnesium | 12.7 mmol, 309 mg | [Mg] | Mg
reactant | iodine | 7.88 μmol, 2 mg | II | I2
solvent | methanol | 80 mL | CO | CH4O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 8-(3,4-Difluoro-phenyl)-6-trifluoromethyl-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | FC=1C=C(C=CC1F)C1C=2N(CC(C1)C(F)(F)F)N=C(N2)N | C13H11F5N4
